US09193693B2
Step 2. 3-(1H-Indol-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(1H-indol-1-yl)-2-phenylquinoxaline-6-carboxylate (40 mg, 0.11 mmol, 1.00 equiv) in methanol (10 mL). A solution of sodium hydroxide (21.1 mg, 0.53 mmol, 5.00 equiv) in H2O (2 mL) was added. The resulting solution was stirred for 2 hrs at 50° C. in an oil bath. The resulting mixture was concentrated in vacuo. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with aq. 1N hydrogen chloride. The resulting solids were collected by filtration. The crude product (50 mL) was further purified by Flash-Prep-HPLC with the following conditions (IntelFlash-1): Column, silica gel; mobile phase, H2O/CH3CN=100:1 increasing to H2O/CH3CN=100:60 within 40 min; Detector, UV 254 nm. This resulted in 15 mg (38%) of 3-(1H-indol-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(1H-indol-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.11 mmol, 40 mg, 1.00 equiv | N1(C=CC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C24H17N3O2
reactant | sodium hydroxide | 0.53 mmol, 21.1 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | 3-(1H-Indol-1-yl)-2-phenylquinoxaline-6-carboxylic acid | N1(C=CC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C23H15N3O2
